US04585780
1-(2'-carboxyethyl)-3-hydroxy-2-methylpyrid-4-one hydrochloride (2 g) prepared as described under Example 17, is dissolved in methanol saturated with hydrogen chloride and the solution is refluxed for 3 hours. Rotary evaporation of the solution yields a white solid which on recrystallisation from methanol gives 3-hydroxy-1-(2'-methoxycarbonylethyl)-2-methylpyrid-4-one hydrochloride in 80% yield m.p. 140°-141° C., νmax 1545, 1595, 1645, 1730, 1750 cm-1, δ(d6DMSO), 2.45 (s, 3H), 2.85 (t, 2H), 3.5 (s, 3H), 4.45 (t, 2H), 7.30 (d, 1H), 8.15 (d, 1H).

reactant | 1-(2'-carboxyethyl)-3-hydroxy-2-methylpyrid-4-one hydrochloride | 2 g | Cl.C(=O)(O)CCN1C(=C(C(C=C1)=O)O)C
reactant | methanol | CO | CH4O
solvent | hydrogen chloride | Cl | ClH
product | 3-hydroxy-1-(2'-methoxycarbonylethyl)-2-methylpyrid-4-one hydrochloride | 80% yield | Cl.OC1=C(N(C=CC1=O)CCC(=O)OC)C | InChI=1S/C10H13NO4.ClH/c1-7-10(14)8(12)3-5-11(7)6-4-9(13)15-2;/h3,5,14H,4,6H2,1-2H3;1H
